US09284323B2
Preparation of (S)-2-tert-butoxy-2-((R)-1-(2,3-dihydropyrano[4,3,2-de]quinolin-7-yl)-3,7-dimethylnaphthalen-2-yl)acetic acid:
A stock solution of periodic acid/chromium trioxide was prepared according to WO 99/52850 by dissolving periodic acid (11.4 g, 50.0 mmol) and chromium trioxide (23 mg, 1.2 mol %) in wet acetonitrile (0.75% H2O) to a volume of 114 mL. To a solution of (S)-2-tert-butoxy-2-((R)-1-(2,3-dihydropyrano[4,3,2-de]quinolin-7-yl)-3,7-dimethylnaphthalen-2-yl)ethanol (211 mg) in MeCN (3 mL) was added the above stock solution (200 μL). After 2 h, the mixture was filtered and purified by reverse phase HPLC (MeCN w/0.1% TFA/H2O) to give the desired product. 1H-NMR: 400 MHz, (CD3OD) δ: 8.55 (d, J=5 Hz, 1H), 7.69 (m, 2H), 7.53 (d, J=8 Hz, 1H), 7.35 (d, J=5 Hz, 1H), 7.24 (d, J=8 Hz, 1H), 7.18 (d, J=8 Hz, 1H), 6.63 (s, 1H), 5.18 (s, 1H), 4.58 (m, 2H), 3.42 (m, 2H), 2.66 (s, 3H), 2.17 (s, 3H), 0.90 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C29H29NO4: 456.2. Found: 456.1.

reactant | periodic acid | 50.0 mmol, 11.4 g | I(=O)(=O)(=O)O | HIO4
reactant | chromium trioxide | 23 mg | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | MeCN | 3 mL | CC#N | C2H3N
product | periodic acid chromium trioxide | I(=O)(=O)(=O)O.[O-2].[O-2].[O-2].[Cr+6] | InChI=1S/Cr.HIO4.3O/c;2-1(3,4)5;;;/h;(H,2,3,4,5);;;/q+6;;3*-2
